US05328795
Styrene and acrylic acid were dissolved in benzene in a total concentration of 30% by weight. An amount of 0.2% by weight based on the total monomers of azobisisobutyronitrile was added to the solution. The mixture was sealed in a tube under a nitrogen gas, and the polymerization was carried out at 70° C. over a period of 48 hours to provide a styrene-acrylic acid copolymer.

reactant | Styrene | C=CC1=CC=CC=C1 | C8H8
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | azobisisobutyronitrile | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | benzene | C1=CC=CC=C1 | C6H6
product | styrene-acrylic acid | C(=CC1=CC=CC=C1)C=CC(=O)O | C11H10O2
